US06797718B2
The general method described in Part D of Example 109 was followed using 8-ethoxymethyl-5,6-dimethyl-7-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridine (6.47 g, 16.0 mmol) as the starting material. The reaction with triphenyl phosphine (4.61 g, 17.6 mmol) required 41 hours, and the hydrolysis of the intermediate required 18 hours. The crude product (11.6 g) was dissolved in dichloromethane and treated with a 1 M solution of hydrochloric acid in diethyl ether (80 mL). The volatiles were removed under reduced pressure, and the resulting solid was recrystallized from acetonitrile. The crystals were dissolved in water (20 mL), and the solution was adjusted to pH 14 with the addition of 50% aqueous sodium hydroxide to provide a solid that was isolated by filtration. The solid was stirred with 1 M aqueous potassium hydroxide for one hour, isolated by filtration, dried for three days under reduced pressure at 70° C. to provide 0.828 g of 2-ethoxymethyl-6,7-dimethyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine as a white powder, mp 129-130° C.

reactant | 8-ethoxymethyl-5,6-dimethyl-7-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridine | 16.0 mmol, 6.47 g | C(C)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCOCC#CC1=CC=CC=C1 | C22H24N6O2
reactant | triphenyl phosphine | 17.6 mmol, 4.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | Cl | ClH
reactant | potassium hydroxide | 1 M | [OH-].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
product | 2-ethoxymethyl-6,7-dimethyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine | 0.828 g | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOCC#CC1=CC=CC=C1 | C22H26N4O2
